US06878717B2
4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-chloro-2-pyrimidinyl]amino]-benzonitrile (0.00250 mol) and NH3/1,4-dioxane 0.5M (0.015 mol) were heated in a pressure vessel at 150° C. for 4 days. The sample was allowed to sit at ambient conditions for 2 days. Water was added slowly to the mixture until a precipitate formed. The mixture was stirred for 2 hours and filtered. The solid was recrystallized from CH3CN to obtain 0.58 g (fraction 1). The filtrate was evaporated (fraction 2). Both fractions were combined and purified by column chromatography, eluting with CH2Cl2. The resulting residue of the desired fraction was recrystallized from CH3CN to yield 0.44 g of 4-[[4-amino-5-bromo-6-(4-cyano-2,6-dimethylphenyloxy)-2-pyrimidinyl]-amino]benzonitrile (40.5%). The sample was dried at 80° C. for 16 hours at 0.2 mm Hg (comp. 46).

reactant | 4-[[5-bromo-4-(4-cyano-2,6-dimethylphenoxy)-6-chloro-2-pyrimidinyl]amino]-benzonitrile | 0.00250 mol | BrC=1C(=NC(=NC1Cl)NC1=CC=C(C#N)C=C1)OC1=C(C=C(C=C1C)C#N)C | C20H13BrClN5O
reactant | NH3 1,4-dioxane | 0.5M | N.O1CCOCC1
solvent | Water | O | H2O
product | 4-[[4-amino-5-bromo-6-(4-cyano-2,6-dimethylphenyloxy)-2-pyrimidinyl]-amino]benzonitrile | 0.44 g, 40.5% | NC1=NC(=NC(=C1Br)OC1=C(C=C(C=C1C)C#N)C)NC1=CC=C(C#N)C=C1 | C20H15BrN6O
